*-- pdngen: spice deck generated for chip 'chiplet2' PDN
*-- die chiplet2:  W/H: 0.002/0.003


.subckt chiplet2
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
+nd_1_0_7000_8666
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_666 0 45.53
rdesr_0_0_0_0 nd_1_0_1000_666 nd_1_0_1000_666_ci 45.53
cd_0_0_0_0 nd_1_0_1000_666_ci 0 4.39271e-11
rdload_0_0_0_1 nd_1_0_3000_666 0 32.851
rdesr_0_0_0_1 nd_1_0_3000_666 nd_1_0_3000_666_ci 32.851
cd_0_0_0_1 nd_1_0_3000_666_ci 0 6.08809e-11
rdload_0_0_0_2 nd_1_0_5000_666 0 51.5487
rdesr_0_0_0_2 nd_1_0_5000_666 nd_1_0_5000_666_ci 51.5487
cd_0_0_0_2 nd_1_0_5000_666_ci 0 3.87983e-11
rdload_0_0_0_3 nd_1_0_7000_666 0 341.688
rdesr_0_0_0_3 nd_1_0_7000_666 nd_1_0_7000_666_ci 341.688
cd_0_0_0_3 nd_1_0_7000_666_ci 0 5.85329e-12
rdload_0_0_0_4 nd_1_0_9000_666 0 89.6239
rdesr_0_0_0_4 nd_1_0_9000_666 nd_1_0_9000_666_ci 89.6239
cd_0_0_0_4 nd_1_0_9000_666_ci 0 2.23155e-11
rdload_0_0_0_5 nd_1_0_1000_2000 0 50.7962
rdesr_0_0_0_5 nd_1_0_1000_2000 nd_1_0_1000_2000_ci 50.7962
cd_0_0_0_5 nd_1_0_1000_2000_ci 0 3.9373e-11
rdload_0_0_0_6 nd_1_0_3000_2000 0 35.4808
rdesr_0_0_0_6 nd_1_0_3000_2000 nd_1_0_3000_2000_ci 35.4808
cd_0_0_0_6 nd_1_0_3000_2000_ci 0 5.63685e-11
rdload_0_0_0_7 nd_1_0_5000_2000 0 32.1761
rdesr_0_0_0_7 nd_1_0_5000_2000 nd_1_0_5000_2000_ci 32.1761
cd_0_0_0_7 nd_1_0_5000_2000_ci 0 6.2158e-11
rdload_0_0_0_8 nd_1_0_7000_2000 0 1671.53
rdesr_0_0_0_8 nd_1_0_7000_2000 nd_1_0_7000_2000_ci 1671.53
cd_0_0_0_8 nd_1_0_7000_2000_ci 0 1.19651e-12
rdload_0_0_0_9 nd_1_0_9000_2000 0 35.1118
rdesr_0_0_0_9 nd_1_0_9000_2000 nd_1_0_9000_2000_ci 35.1118
cd_0_0_0_9 nd_1_0_9000_2000_ci 0 5.6961e-11
rdload_0_0_0_10 nd_1_0_1000_3333 0 56.7737
rdesr_0_0_0_10 nd_1_0_1000_3333 nd_1_0_1000_3333_ci 56.7737
cd_0_0_0_10 nd_1_0_1000_3333_ci 0 3.52276e-11
rdload_0_0_0_11 nd_1_0_3000_3333 0 1578.58
rdesr_0_0_0_11 nd_1_0_3000_3333 nd_1_0_3000_3333_ci 1578.58
cd_0_0_0_11 nd_1_0_3000_3333_ci 0 1.26696e-12
rdload_0_0_0_12 nd_1_0_5000_3333 0 34.7263
rdesr_0_0_0_12 nd_1_0_5000_3333 nd_1_0_5000_3333_ci 34.7263
cd_0_0_0_12 nd_1_0_5000_3333_ci 0 5.75933e-11
rdload_0_0_0_13 nd_1_0_7000_3333 0 56.8845
rdesr_0_0_0_13 nd_1_0_7000_3333 nd_1_0_7000_3333_ci 56.8845
cd_0_0_0_13 nd_1_0_7000_3333_ci 0 3.5159e-11
rdload_0_0_0_14 nd_1_0_9000_3333 0 152.083
rdesr_0_0_0_14 nd_1_0_9000_3333 nd_1_0_9000_3333_ci 152.083
cd_0_0_0_14 nd_1_0_9000_3333_ci 0 1.31507e-11
rdload_0_0_0_15 nd_1_0_1000_4666 0 34.4457
rdesr_0_0_0_15 nd_1_0_1000_4666 nd_1_0_1000_4666_ci 34.4457
cd_0_0_0_15 nd_1_0_1000_4666_ci 0 5.80624e-11
rdload_0_0_0_16 nd_1_0_3000_4666 0 26.4599
rdesr_0_0_0_16 nd_1_0_3000_4666 nd_1_0_3000_4666_ci 26.4599
cd_0_0_0_16 nd_1_0_3000_4666_ci 0 7.55861e-11
rdload_0_0_0_17 nd_1_0_5000_4666 0 37.66
rdesr_0_0_0_17 nd_1_0_5000_4666 nd_1_0_5000_4666_ci 37.66
cd_0_0_0_17 nd_1_0_5000_4666_ci 0 5.31067e-11
rdload_0_0_0_18 nd_1_0_7000_4666 0 63.7805
rdesr_0_0_0_18 nd_1_0_7000_4666 nd_1_0_7000_4666_ci 63.7805
cd_0_0_0_18 nd_1_0_7000_4666_ci 0 3.13576e-11
rdload_0_0_0_19 nd_1_0_9000_4666 0 53.9917
rdesr_0_0_0_19 nd_1_0_9000_4666 nd_1_0_9000_4666_ci 53.9917
cd_0_0_0_19 nd_1_0_9000_4666_ci 0 3.70428e-11
rdload_0_0_0_20 nd_1_0_1000_6000 0 136.7
rdesr_0_0_0_20 nd_1_0_1000_6000 nd_1_0_1000_6000_ci 136.7
cd_0_0_0_20 nd_1_0_1000_6000_ci 0 1.46306e-11
rdload_0_0_0_21 nd_1_0_3000_6000 0 63.2089
rdesr_0_0_0_21 nd_1_0_3000_6000 nd_1_0_3000_6000_ci 63.2089
cd_0_0_0_21 nd_1_0_3000_6000_ci 0 3.16411e-11
rdload_0_0_0_22 nd_1_0_5000_6000 0 41.2599
rdesr_0_0_0_22 nd_1_0_5000_6000 nd_1_0_5000_6000_ci 41.2599
cd_0_0_0_22 nd_1_0_5000_6000_ci 0 4.84732e-11
rdload_0_0_0_23 nd_1_0_7000_6000 0 129.387
rdesr_0_0_0_23 nd_1_0_7000_6000 nd_1_0_7000_6000_ci 129.387
cd_0_0_0_23 nd_1_0_7000_6000_ci 0 1.54575e-11
rdload_0_0_0_24 nd_1_0_9000_6000 0 61.5838
rdesr_0_0_0_24 nd_1_0_9000_6000 nd_1_0_9000_6000_ci 61.5838
cd_0_0_0_24 nd_1_0_9000_6000_ci 0 3.24761e-11
rdload_0_0_0_25 nd_1_0_1000_7333 0 40.8177
rdesr_0_0_0_25 nd_1_0_1000_7333 nd_1_0_1000_7333_ci 40.8177
cd_0_0_0_25 nd_1_0_1000_7333_ci 0 4.89984e-11
rdload_0_0_0_26 nd_1_0_3000_7333 0 30.2012
rdesr_0_0_0_26 nd_1_0_3000_7333 nd_1_0_3000_7333_ci 30.2012
cd_0_0_0_26 nd_1_0_3000_7333_ci 0 6.62226e-11
rdload_0_0_0_27 nd_1_0_5000_7333 0 27.8235
rdesr_0_0_0_27 nd_1_0_5000_7333 nd_1_0_5000_7333_ci 27.8235
cd_0_0_0_27 nd_1_0_5000_7333_ci 0 7.18818e-11
rdload_0_0_0_28 nd_1_0_7000_7333 0 39.969
rdesr_0_0_0_28 nd_1_0_7000_7333 nd_1_0_7000_7333_ci 39.969
cd_0_0_0_28 nd_1_0_7000_7333_ci 0 5.00388e-11
rdload_0_0_0_29 nd_1_0_9000_7333 0 71.6701
rdesr_0_0_0_29 nd_1_0_9000_7333 nd_1_0_9000_7333_ci 71.6701
cd_0_0_0_29 nd_1_0_9000_7333_ci 0 2.79056e-11
rdload_0_0_0_30 nd_1_0_1000_8666 0 44.4422
rdesr_0_0_0_30 nd_1_0_1000_8666 nd_1_0_1000_8666_ci 44.4422
cd_0_0_0_30 nd_1_0_1000_8666_ci 0 4.50022e-11
rdload_0_0_0_31 nd_1_0_3000_8666 0 88.3851
rdesr_0_0_0_31 nd_1_0_3000_8666 nd_1_0_3000_8666_ci 88.3851
cd_0_0_0_31 nd_1_0_3000_8666_ci 0 2.26283e-11
rdload_0_0_0_32 nd_1_0_5000_8666 0 70.1209
rdesr_0_0_0_32 nd_1_0_5000_8666 nd_1_0_5000_8666_ci 70.1209
cd_0_0_0_32 nd_1_0_5000_8666_ci 0 2.85222e-11
rdload_0_0_0_33 nd_1_0_7000_8666 0 310.495
rdesr_0_0_0_33 nd_1_0_7000_8666 nd_1_0_7000_8666_ci 310.495
cd_0_0_0_33 nd_1_0_7000_8666_ci 0 6.44132e-12
rdload_0_0_0_34 nd_1_0_9000_8666 0 32.0924
rdesr_0_0_0_34 nd_1_0_9000_8666 nd_1_0_9000_8666_ci 32.0924
cd_0_0_0_34 nd_1_0_9000_8666_ci 0 6.232e-11

*-- intentional decap
cd_add_cap0 nd_1_0_1000_2000 nd0 'dcap_int_val128'
cd_add_cap1 nd_1_0_5000_2000 nd1 'dcap_int_val129'
cd_add_cap2 nd_1_0_1000_4666 nd2 'dcap_int_val130'
cd_add_cap3 nd_1_0_5000_4666 nd3 'dcap_int_val131'
cd_add_cap4 nd_1_0_1000_7333 nd4 'dcap_int_val132'
cd_add_cap5 nd_1_0_5000_7333 nd5 'dcap_int_val133'
rd_add0 nd0 0 'esr7'
rd_add1 nd1 0 'esr8'
rd_add2 nd2 0 'esr9'
rd_add3 nd3 0 'esr10'
rd_add4 nd4 0 'esr11'
rd_add5 nd5 0 'esr12'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_2000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_3333  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_6000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_1000_7333  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_1000_666  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_1000_3333  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_1000_4666  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_1000_6000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_1000_8666  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_3000_2000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_3000_3333  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_3000_6000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_3000_7333  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_3000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3000_666  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3000_3333  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3000_4666  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3000_6000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3000_8666  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_5000_2000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_5000_3333  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_5000_6000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_5000_7333  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_5000_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_5000_666  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_5000_3333  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_5000_4666  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_5000_6000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_5000_8666  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_7000_2000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_7000_3333  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_7000_6000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_7000_7333  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_7000_8666  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7000_666  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7000_3333  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7000_4666  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7000_6000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7000_8666  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_9000_2000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_9000_3333  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_9000_6000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_9000_7333  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_9000_8666  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_9000_666  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_9000_3333  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_9000_4666  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_9000_6000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_9000_8666  0.001

.ends chiplet2
